US07858632B2
A mixture of N-[2-amino-5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidin-4-yl]formamide, N-[4-amino-5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidin-2-yl]formamide and N-[4-formylamino-5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidin-2-yl]-formamide (0.164 g) in trifluoroacetic acid (10 mL) was heated at reflux for 24 h. The mixture was then cooled and concentrated in vacuo. The residue was purified by flash chromatography (0-5% methanol in dichloromethane) to yield 76 mg of 5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidine-2,4-diamine as its trifluoroacetic acid salt. (M+H)+=343; MP 135-138.5° C.

reactant | N-[2-amino-5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidin-4-yl]formamide | NC1=NC=C(C(=N1)NC=O)OC1=C(C=C(C(=C1)C1=NOC=N1)OC)C(C)C | C17H18N6O4
reactant | N-[4-amino-5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidin-2-yl]formamide | NC1=NC(=NC=C1OC1=C(C=C(C(=C1)C1=NOC=N1)OC)C(C)C)NC=O | C17H18N6O4
reactant | N-[4-formylamino-5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidin-2-yl]-formamide | 0.164 g | C(=O)NC1=NC(=NC=C1OC1=C(C=C(C(=C1)C1=NOC=N1)OC)C(C)C)NC=O | C18H18N6O5
solvent | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(2-isopropyl-4-methoxy-5-[1,2,4]oxadiazol-3-yl-phenoxy)-pyrimidine-2,4-diamine | 76 mg | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)C1=NOC=N1 | C16H18N6O3
